US04971982
400 mg of 4-(5-hydroxy-2-pyridyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile and 350 mg of m-chloroperbenzoic acid were stirred overnight in 100 ml of dichloromethane. The mixture was washed in succession with sodium bisulphite solution, sodium bicarbonate solution and water, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using 10% (v/v) methanol/ethyl acetate for the elution. There were obtained 30 mg of 2-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)-5-hydroxypyridine N-oxide of melting point 260°-262° C. (from ethanol).

reactant | 4-(5-hydroxy-2-pyridyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 400 mg | OC=1C=CC(=NC1)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H14N2O2
reactant | m-chloroperbenzoic acid | 350 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(6-cyano-2,2-dimethyl-2H-1-benzopyran-4-yl)-5-hydroxypyridine N-oxide | 30 mg | C(#N)C=1C=CC2=C(C(=CC(O2)(C)C)C2=[N+](C=C(C=C2)O)[O-])C1 | C17H14N2O3
